US08044052B2
2-(3-(fluoro(piperidin-4-ylidene)methyl)phenoxy)-5-(trifluoromethyl)pyridine
To a solution of tert-butyl 4-(fluoro(3-(5-(trifluoromethyl)pyridin-2-yloxy)phenyl)methylene)piperidine-1-carboxylate (600 mg, 1.32 mmol) in CH2Cl2 (10 mL) was added TFA (0.98 mL, 13.26 mmol) dropwise maintaining ice-cooled conditions. The mixture was stirred for 1 h. The TFA was evaporated and the reaction mixture was partitioned between saturated NaHCO3 solution and CH2Cl2. The organic layer was dried over Na2SO4 and concentrated under reduced pressure to give the title compound (340 mg). 1H NMR (500 MHz, CDCl3): δ 2.3 (m, 2H), 2.6 (m, 2H), 2.8 (m, 2H), 2.9 (m, 2H), 7.0 (d, 1H, J=8.5 Hz), 7.1-7.4 (m, 4H), 7.9 (d, 1H, J=2 Hz), 8.4 (s, 1H).

reactant | tert-butyl 4-(fluoro(3-(5-(trifluoromethyl)pyridin-2-yloxy)phenyl)methylene)piperidine-1-carboxylate | 1.32 mmol, 600 mg | FC(=C1CCN(CC1)C(=O)OC(C)(C)C)C1=CC(=CC=C1)OC1=NC=C(C=C1)C(F)(F)F | C23H24F4N2O3
reactant | TFA | 13.26 mmol, 0.98 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(3-(fluoro(piperidin-4-ylidene)methyl)phenoxy)-5-(trifluoromethyl)pyridine | 340 mg | FC(C=1C=C(OC2=NC=C(C=C2)C(F)(F)F)C=CC1)=C1CCNCC1 | C18H16F4N2O
